US09388195B2
B) 1-[1-(thiophen-2-yl)cyclopropyl]methanamine monohydrochloride
To a solution of 1-(thiophen-2-yl)cyclopropanecarbonitrile (14.9 g) in tetrahydrofuran (100 mL) was added 1.1M borane•tetrahydrofuran complex (100 mL) at room temperature, and the mixture was stirred at 60° C. overnight. 6M Aqueous hydrochloric acid solution (20 mL) was carefully added to the reaction mixture, and the mixture was stirred at 60° C. for 0.5 hr. The reaction mixture was allowed to cool to room temperature, and tetrahydrofuran was evaporated under reduced pressure. The obtained residue was diluted with water, and washed with ethyl acetate. The aqueous layer was basified with 8M aqueous sodium hydroxide solution, and the mixture was extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was dissolved in ethyl acetate, 4M hydrochloric acid/ethyl acetate solution (30 mL) was added, and the solvent was evaporated under reduced pressure. The obtained solid was recrystallized from ethanol-ethyl acetate to give the title compound (10.5 g) as white needle crystals.

reactant | 1-(thiophen-2-yl)cyclopropanecarbonitrile | 14.9 g | S1C(=CC=C1)C1(CC1)C#N | C8H7NS
reactant | hydrochloric acid | 6M, 20 mL | Cl | ClH
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 1-[1-(thiophen-2-yl)cyclopropyl]methanamine monohydrochloride | 10.5 g | Cl.S1C(=CC=C1)C1(CC1)CN | InChI=1S/C8H11NS.ClH/c9-6-8(3-4-8)7-2-1-5-10-7;/h1-2,5H,3-4,6,9H2;1H
